US07557103B2
Preparation of 1-{3-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-ethanol
A solution of 3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carboxaldehyde (1.07 g, 2.84 mmol) in THF (30 mL) is cooled at 0° C., treated with 3.0 M CH3MgBr (1.1 mL, 3.41 mmol). The reaction is stirred at 0° C. for 30 min. It is then quenched with sat. NH4Cl (15 mL), diluted with H2O (15 mL), extracted with EtOAc (2×30 mL). The combined organic layers is dried with Na2SO4, filtered and concentrated. Purification of the crude material by silica gel chromatography gives the title compound (0.93 g, 2.38 mmol, 83). 1H NMR (CDCl3): δ 0.91 (t, J=7.1 Hz, 3H), 0.92 (t, J=7.1 Hz, 3H), 1.75 (d, J=6.6 Hz, 3H), 1.79-1.94 (m, 4H), 2.41 (s, 6H), 2.45 (s, 3H), 3.32-3.42 (m, 1H), 5.17 (m, 1H), 5.39 (m, 1H), 6.72 (t, J=7.0 Hz, 1H), 6.73 (s, 1H), 7.13 (d, J=7.1 Hz, 1H), 7.43 (d, J=7.1 Hz, 1H) ppm. ES-MS (m/z): calcd for C23H29N5O (M+H)+: 392.5. found: 392.3.

reactant | 3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carboxaldehyde | 2.84 mmol, 1.07 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1C=O)C | C22H25N5O
reactant | CH3MgBr | 3.41 mmol, 3.0 M, 1.1 mL | C[Mg+].[Br-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-{3-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-ethanol | 2.38 mmol, 0.93 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1C(C)O)C | C23H29N5O
